US07989449B2
3-Bromo-2-fluoro-N-methoxy-N-methylbenzamide 1680610-73-51
Carbonyldiimidazole (7.76 g) was added portionwise to commercially available 3-bromo-2-fluorobenzoic acid [161957-56-8] (9.53 g) in dichloromethane (100 mL) over 30 min. The mixture was then heated at reflux for 30 min (until gas evolution ceased). The reaction was then cooled to room temperature and triethylamine (6.37 mL) followed by N,O-dimethylhydroxylamine hydrochloride (4.7 g) were added. The reaction was left to stir at room temperature for 16 h before being washed with 10% citric acid (2×100 mL) and sat. NaHCO3 (2×100 mL), and then dried over sodium sulfate. The solvent was removed by evaporation to yield the product as a brown oil (10.89 g, 95%). NMR (CDCl3): 3.20-3.80 (6H, m, ArCONCH3OCH3), 7.10 (1H, t, Ar), 7.35 (1H, td, Ar), 7.60 (1H, dt, Ar).

reactant | Carbonyldiimidazole | 7.76 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-bromo-2-fluorobenzoic acid | 9.53 g | BrC=1C(=C(C(=O)O)C=CC1)F | C7H4BrFO2
reactant | triethylamine | 6.37 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.7 g | Cl.CNOC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Bromo-2-fluoro-N-methoxy-N-methylbenzamide | 10.89 g, 95% | BrC=1C(=C(C(=O)N(C)OC)C=CC1)F | C9H9BrFNO2
